US04720580
N-(1-Methylethyl)-N[4-[(1-Methylethyl)Amino]Butyl]-3(Trifluoromethyl)Benzenesulfonamide
3-Trifluoromethyl benzene sulfonyl chloride (0.104 m, 25.35 g) in methylene chloride (100 ml) was added dropwise to a solution of N,N'-diisopropylbutane,1,4-diamine (0.104 m, 17.86 gm) and diisopropyl ethyl amine (0.104 m, 13.40 g) in methylene chloride (500 ml). The reaction was stirred overnight. The reaction was washed with water, aqueous sodium bicarbonate and then brine and then stripped. The residue was dissolved in diethyl ether, filtered through Supercel to yield the title compound. Treatment with isopropanol/HCl provided the hydrochloric acid salt of the title compound, 14.64 gms, m.p. 175°-176.5° C.

reactant | 3-Trifluoromethyl benzene sulfonyl chloride | 25.35 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | diisopropyl ethyl amine | 13.40 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-(1-Methylethyl)-N[4-[(1-Methylethyl)Amino]Butyl]-3(Trifluoromethyl)Benzenesulfonamide | CC(C)N(S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F)CCCCNC(C)C | C17H27F3N2O2S
